US04482547
A stirred solution of 48.66 g (0.2 mol) of 1-[(2-nitrophenyl)methyl]-1-phenylhydrazine and 200 ml of 97% formic acid solution was heated 4 hours under reflux and allowed to stand overnight (about 16 hours) at ambient temperature. Excess formic acid was removed on a rotary evaporator and the residue was dissolved in 1500 ml of CH2Cl2. The solution was washed with 10% NaOH and concentrated to dryness. Recrystallization from 600 ml of 95% ethanol afforded 44.0 g (81.8%) of 2-formyl-1-[(2-nitrophenyl)methyl]-1-phenylhydrazine, m.p. 140°-142.5° C.

reactant | 1-[(2-nitrophenyl)methyl]-1-phenylhydrazine | 0.2 mol, 48.66 g | [N+](=O)([O-])C1=C(C=CC=C1)CN(N)C1=CC=CC=C1 | C13H13N3O2
reactant | formic acid | 200 ml | C(=O)O | CH2O2
product | 2-formyl-1-[(2-nitrophenyl)methyl]-1-phenylhydrazine | 44.0 g, 81.8% | C(=O)NN(C1=CC=CC=C1)CC1=C(C=CC=C1)[N+](=O)[O-] | C14H13N3O3
